US07914862B2
In a reactor under nitrogen atmosphere, 200 mL of THF was added to 41.2 g of methyltriphenylphosphonium bromide, and the mixture was cooled to −20° C., to which 12.9 g of t-BuOK was added, followed by stirring for 1 hour. A solution containing 15.0 g of 1.4-dioxaspiro[4.5]decan-8-one dissolved in 200 mL of THF was added dropwise thereto, followed by stirring at −20° C. for 1 hour. The temperature of the reaction mixture was increased to room temperature, and 200 mL of water was added to the reaction mixture, followed by extracting three times with 300 mL of toluene. The resulting organic layer was washed with water, dried over anhydrous magnesium sulfate, and the solvent was concentrated to about 200 mL under reduced pressure, and the concentrated solution was placed in 1,000 mL of hexane, followed by removing deposited solid matters. The solvent was distilled off from the resulting solution under reduced pressure, and the residue was purified by silica gel column chromatography to provide 10.6 g of 8-methylene-1,4-dioxaspiro[4.5]decane.

reactant | t-BuOK | 12.9 g | CC(C)(C)[O-].[K+]
reactant | 1.4-dioxaspiro[4.5]decan-8-one | 15.0 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | water | 200 mL | O | H2O
catalyst | methyltriphenylphosphonium bromide | 41.2 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 8-methylene-1,4-dioxaspiro[4.5]decane | 10.6 g | C=C1CCC2(OCCO2)CC1 | C9H14O2
